US05149859
Synthesis of methyl 6-(6-methoxy-2-naphthyl)-6-oxohexanoate
Into a solution of 6.32 g (47.4 mmol) of anhydrous aluminum chloride in 60 ml of dry nitrobenzene was added 5.03 g (31.7 mmol) of 2-methoxynaphthalene chilled with an ice bath, followed by stirring. Subsequently, under an ice bath, monomethyl adipate chloride (synthesized by adding 5.0 ml (57.3 mmol) of oxalyl chloride under an ice bath to a solution of 5.85 ml (39.5 mmol) monomethyl adipate in 50 ml of dry methylene chloride) to carry out the reaction for 6 hours, and evaporating methylene chloride and excessive oxalyl chloride under a reduced pressure) was gradually added, and the reaction was carried out at 0° C. to room temperature overnight (for 15 hours). The reaction mixture was poured into ice-water, extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. After evaporation of the organic solvent and nitrobenzene under a reduced pressure, the desired product was obtained by silica gel chromatography. Yield: 3.82 g (40%).

reactant | aluminum chloride | 47.4 mmol, 6.32 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methoxynaphthalene | 31.7 mmol, 5.03 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | monomethyl adipate chloride | [Cl-].C(CCCCC(=O)[O-])(=O)OC
reactant | oxalyl chloride | 57.3 mmol, 5.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | monomethyl adipate | 39.5 mmol, 5.85 ml | C(CCCCC(=O)[O-])(=O)OC
solvent | nitrobenzene | 60 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 6-(6-methoxy-2-naphthyl)-6-oxohexanoate | COC=1C=C2C=CC(=CC2=CC1)C(CCCCC(=O)OC)=O | C18H20O4
